US05679696
A stirred suspension of N-(3,5-dichloropyrid-4yl)-3-cyclopentyloxy-4-methoxybenzamide (2.0 g; that is prepared as described in Example 6) in glacial acetic acid (8 mL) is treated with an aqueous solution of hydrogen peroxide (6 mL; 27.5%). The mixture is stirred for 3 hours at 70°-80° C. and then it is treated with a further portion of hydrogen peroxide solution (4 mL), and the solution is stirred for a further 12 hours. The solution is then cooled, basified by treatment with concentrated aqueous sodium hydroxide solution, and extracted with dichloromethane (2×30 mL). The organic extract is washed with brine (30 mL), dried over magnesium sulfate and evaporated. The resulting residue is recrystallized from ethyl acetate, to give 3,5-dichloro-4-(3-cyclopentyloxy-4-methoxybenzamido)pyridine-N-oxide (0.73 g), m.p. 118°-120° C. [Elemental analysis: C,53.0; H,4.4; N,6.8%; calculated for C18H18O4N2Cl2 :0.5H2O: C,53.2;H 4.7;N 6.9%].

reactant | N-(3,5-dichloropyrid-4yl)-3-cyclopentyloxy-4-methoxybenzamide | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O)Cl | C18H18Cl2N2O3
reactant | hydrogen peroxide | 6 mL | OO | H2O2
reactant | hydrogen peroxide | 4 mL | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 3,5-dichloro-4-(3-cyclopentyloxy-4-methoxybenzamido)pyridine-N-oxide | 0.73 g | ClC=1C=[N+](C=C(C1NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O)Cl)[O-] | C18H18Cl2N2O4
